US05260423
Preparation of 7-acetylbenzo-1,2,3-thiadiazole (Comp. No. 1.5)
0.59 g of magnesium turnings in 3 ml of diethyl ether are activated with 1 drop of bromine, and a solution of 1.5 ml of methyl iodide in 5.5 ml of diethyl ether is added dropwise with stirring. When the exothermic reaction has subsided, the mixture is heated and kept for a further 1.5 hours at bath temperature 55° C. The resulting solution is added dropwise under a nitrogen atmosphere and with stirring at -10° C. to the initially introduced solution of 4.9 g of N-methyl-N-methoxybenzo-1,2,3-thiadiazole-7-carboxamide in 150 ml of absolute tetrahydrofuran. After stirring has been continued for 1 hour at -10° C., the mixture is heated and refluxed at bath temperature 75° C. for 6 hours. The reaction mixture is then cooled, poured into ice-water, acidified with 2N hydrochloric acid and extracted several times using ethyl acetate. The extracts are washed with water, dried over sodium sulfate and evaporated. The residue is purified on silica gel (CHCl3), giving the title compound of m.p. 126°-127° C.

reactant | magnesium | 0.59 g | [Mg] | Mg
reactant | methyl iodide | 1.5 ml | CI | CH3I
reactant | N-methyl-N-methoxybenzo-1,2,3-thiadiazole-7-carboxamide | 4.9 g | CN(C(=O)C1=CC=CC=2N=NSC21)OC | C9H9N3O2S
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | diethyl ether | 3 ml | C(C)OCC | C4H10O
catalyst | bromine | 1 drop | BrBr | Br2
solvent | diethyl ether | 5.5 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 7-acetylbenzo-1,2,3-thiadiazole | C(C)(=O)C1=CC=CC=2N=NSC21 | C8H6N2OS
